US05624943
3-{6-(5-Hydroxypentyl)-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-2pyridyl}-propionic acid
Under the conditions of example 3 C, 400 mg of 3-{6-(5-hydroxypentyl)-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-2-pyridyl}-propionic acid methyl ester in 20 ml of methanol is saponified with 12 ml of 2n sodium hydroxide solution and worked up. 322 mg of the title compound is obtained as oil.

reactant | 3-{6-(5-hydroxypentyl)-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-2-pyridyl}-propionic acid methyl ester | 400 mg | COC(CCC1=NC(=CC=C1OCCCC\C=C\C1=CC=C(C=C1)OC)CCCCCO)=O | C27H37NO5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 3-{6-(5-Hydroxypentyl)-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-2pyridyl}-propionic acid | 322 mg | OCCCCCC1=CC=C(C(=N1)CCC(=O)O)OCCCC\C=C\C1=CC=C(C=C1)OC | C26H35NO5
